US07273877B2
4-(2-Fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid and CDI were dissolved in anhydrous THF/DMF (4:1) and treated with 2-amino-1-propanol as for example 34. After workup, the residue was triturated with hexane, then dried to give 4-(2-fluoro-4-iodoanilino)-N-(2-hydroxy-1-methylethyl)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide (40%) as a cream solid; m.p. (EtOAc/Hexane) 198-202° C. 1H NMR [400 MHz, (CD3)2SO] δ 10.10 (br s, 1H), 8.26 (s, 1H), 8.08 (d, J=7.8 Hz, 1H), 7.72 (dd, J=10.2, 1.7 Hz, 1H), 7.57 (d, J=8.5 Hz, 1H), 7.28 (t, J=8.5 Hz, 1H), 5.58 (s, 1H), 4.73 (t, J=5.8 Hz, 1H), 3.97 (p, J=6.7 Hz, 1H), 3.47-3.39 (m, 1H), 3.38 (s, 3H), 3.37-3.33 (m, 1H), 1.12 (d, J=6.7 Hz, 3H). HRMS (FAB+) calcd for C16H18FIN3O3 446.0377 (M+), found 446.0383. HPLC 95.1% (254 nm).

reactant | 4-(2-Fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)O)C=CC(=C1)I | C13H10FIN2O3
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-amino-1-propanol | NC(CO)C | C3H9NO
solvent | THF DMF | C1CCOC1.CN(C)C=O
product | 4-(2-fluoro-4-iodoanilino)-N-(2-hydroxy-1-methylethyl)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 40% | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)NC(CO)C)C=CC(=C1)I | C16H17FIN3O3
